US06387911B1
2-Cyano-3-(2,2,2-trifluoroethylthio)pyridine
A suspension of sodium hydride (60% oil dispersion, 180 mg, 4.52 mmol) in dry THF (17 mL) under N2 was treated with trifluoroethanethiol (0.40 mL, 4.52 mmol) and the mixture was heated to 50° C. When gas evolution ceased (ca. 1 h), 3-bromo-2-cyanopyridine was added and the mixture was heated to reflux for 4 h. The solvent wag removed in vacuo and the residue was taken up in CH2Cl2 and filtered to remove precipitated sodium bromide. The filtrate was concentrated at reduced pressure to afford the title compound as an orange oil:

reactant | sodium hydride | 4.52 mmol, 180 mg | [H-].[Na+]
reactant | trifluoroethanethiol | 4.52 mmol, 0.40 mL | FC(CS)(F)F | C2H3F3S
reactant | 3-bromo-2-cyanopyridine | BrC=1C(=NC=CC1)C#N | C6H3BrN2
solvent | THF | 17 mL | C1CCOC1 | C4H8O
product | 2-Cyano-3-(2,2,2-trifluoroethylthio)pyridine | C(#N)C1=NC=CC=C1SCC(F)(F)F | C8H5F3N2S
